US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-7-methylamino-8-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid Methylamine Salt
1-(5-Amino-2,4-difluorophenyl)-6,7-difluoro-8-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (200 mg) and a 40% aqueous solution (172 mg) of methylamine were added to pyridine (1 ml), and the mixture was stirred overnight at room temperature. The solvent was distilled off under reduced pressure, and ethanol was added to the residue to collect solids by filtration. The solids were washed successively with ethanol and diethyl ether to obtain the title compound (122 mg) as an orange powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-6,7-difluoro-8-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 200 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)[N+](=O)[O-])F)F)=O)C(=O)O)F)F | C16H7F4N3O5
reactant | methylamine | CN | CH5N
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-7-methylamino-8-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid Methylamine Salt | 122 mg | CN.NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)[N+](=O)[O-])NC)F)=O)C(=O)O)F)F | InChI=1S/C17H11F3N4O5.CH5N/c1-22-13-10(20)2-6-14(15(13)24(28)29)23(5-7(16(6)25)17(26)27)12-4-11(21)8(18)3-9(12)19;1-2/h2-5,22H,21H2,1H3,(H,26,27);2H2,1H3
